US07781431B2
Step 1: methyl 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.25 M) of methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF at 0° C. was treated with NaH (1.5 eq., 60% dispersion in mineral oil), and the suspension was stirred at 0° C. for 60 min then it was treated with chloromethyl methyl ether (5 eq.). The mixture was stirred at RT for 2 h then it was quenched with ice/water and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation of the solvent under reduced pressure gave a residue that was purified by flash chromatography on silica gel (1:12 acetone/toluene) to afford the title compound (92%) as an oil.

reactant | methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.25 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H21NO2S
reactant | NaH | 1.5 eq. | [H-].[Na+]
reactant | chloromethyl methyl ether | 5 eq. | COCCl | C2H5ClO
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 6-cyclohexyl-4-(methoxymethyl)-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 92% | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)COC)C=C(S2)C(=O)OC | C22H25NO3S
